US05691364
To 3,3'-[3-amino-2,6-pyridinediylbis(oxy)]bis(benzonitrile) (3.0 g, 8.7 mmol) dissolved in acetonitrile (100 mL) was added phenyl isocyanate (1.1 g, 9.5 mmol). After refluxing for 4 hours, the reaction was partitioned between ether and water. The organic layer was separated, washed with water, saturated aqueous sodium bicarbonate, and brine, dried (MgSO4), and the solvent was removed in vacuo. Chromatography on silica gel with ethyl acetate/hexane (1/4) as eluent gave material which was crystallized from ethyl acetate/hexane to give N-[2,6-bis(3-cyanophenoxy)pyridin-3-yl]-N'-phenylurea; NMR (CDCl3) 8.65 (d,1), 7.4 (m,8), 7.1-7.3 (m,6), 6.8 (s,1), 6.7 (d,1) ppm.

reactant | 3,3'-[3-amino-2,6-pyridinediylbis(oxy)]bis(benzonitrile) | 8.7 mmol, 3.0 g | NC=1C(=NC(=CC1)OC=1C=C(C#N)C=CC1)OC=1C=C(C#N)C=CC1 | C19H12N4O2
reactant | phenyl isocyanate | 9.5 mmol, 1.1 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-[2,6-bis(3-cyanophenoxy)pyridin-3-yl]-N'-phenylurea | C(#N)C=1C=C(OC2=NC(=CC=C2NC(=O)NC2=CC=CC=C2)OC2=CC(=CC=C2)C#N)C=CC1 | C26H17N5O3
